US08134001B2
Preparation of intermediate 1-[2-(4-cyano-phenyloxy)-5-fluoro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
In a manner similar to the method described in Example 112b, 2-(4-cyano-phenyloxy)-5-fluoro-benzaldehyde was treated with LHMDS, acetyl chloride, triethylamine and chloro-trimethyl-silane to give the desired compound, which was directly used for the next step.

reactant | 2-(4-cyano-phenyloxy)-5-fluoro-benzaldehyde | C(#N)C1=CC=C(C=C1)OC1=C(C=O)C=C(C=C1)F | C14H8FNO2
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | chloro-trimethyl-silane | Cl[Si](C)(C)C | C3H9ClSi
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[2-(4-cyano-phenyloxy)-5-fluoro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(#N)C1=CC=C(C=C1)OC1=C(C=C(C=C1)F)C=NC(=C)O[Si](C)(C)C | C19H19FN2O2Si
